US06342765B1
Methane sulfonyl chloride (7.11 ml) was added to a stirred solution of 2-(4-fluorophenyl)-3-(methoxycarbonyl)-6-methylpyridine-1-oxide (12.0 g) in toluene (300 ml) and the mixture heated at reflux under an inert atmosphere for 16 hours. The solution was partially concentrated under reduced pressure and then applied directly to a silica flash column and eluted with ethyl acetate/iso-hexane (1:5) to give methyl 2-(4-fluorophenyl)-6-chloromethylpyridin-3-carboxylate as a white crystalline solid (13.6 g).

reactant | Methane sulfonyl chloride | 7.11 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(4-fluorophenyl)-3-(methoxycarbonyl)-6-methylpyridine-1-oxide | 12.0 g | FC1=CC=C(C=C1)C1=[N+](C(=CC=C1C(=O)OC)C)[O-] | C14H12FNO3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(4-fluorophenyl)-6-chloromethylpyridin-3-carboxylate | 13.6 g | FC1=CC=C(C=C1)C1=NC(=CC=C1C(=O)OC)CCl | C14H11ClFNO2
